US06448350B1
Ethylene/1-octene Copolymerization
A 260 ml glass autoclave, provided with magnetic stirrer, temperature indicator and feeding line for the ethylene, was purified and fluxed with ethylene at 35° C. At room temperature were introduced 86 ml of heptane and 4.1 ml of 1-octene distilled over LiAlH4. The catalytic system was prepared by consecutively introducing MAO (0.21 mmol. as 1M toluene solution) and 0,1 mg (0.000205 mg.at. Zr) of the metal locene of example 1 solved in toluene (the low amount as possible). After 5 minutes stirring, the solution was diluted to 10 ml with heptane and was introduced into the autoclave under ethylene flow, the reactor was closed, the temperature risen to 70° C. and pressurized to 4 bar. The total pressure was kept constant by feeding ethylene for 20 minutes. The polymerization was stopped by cooling, degassing the reactor and the introduction of 1 ml of methanol. The achieved polymer was washed with acidic methanol, than with methanol and dried in oven at 60° C. under vacuum. 1.68 g. of polymer was obtained (270 Kg/gZr/h) with the following characteristics: I.V.=1.82 dL/g; 1-octene=5.73 mol.%, Tm=92.5° C.; ΔH=63 J/g;

reactant | ethylene | C=C | C2H4
reactant | 1-octene | C=CCCCCCC | C8H16
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | heptane | CCCCCCC | C7H16
product | Ethylene/1-octene | C=C.C=CCCCCCC | InChI=1S/C8H16.C2H4/c1-3-5-7-8-6-4-2;1-2/h3H,1,4-8H2,2H3;1-2H2
